US05444065
Using the method of Example 1 Part A, ethyl 2-oxocyclohexanecarboxylate (201 g, 1.18 mole) was reacted with urethane to provide 135 g of ethyl 2-[ (ethoxycarbonyl)amino]-1-cyclohexene-1-carboxylate as a white solid.

reactant | ethyl 2-oxocyclohexanecarboxylate | 1.18 mole, 201 g | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | urethane | NC(=O)OCC | C3H7NO2
product | ethyl 2-[ (ethoxycarbonyl)amino]-1-cyclohexene-1-carboxylate | 135 g | C(C)OC(=O)NC1=C(CCCC1)C(=O)OCC | C12H19NO4
